US07504412B2
Operations similar to those of Example 1 were conducted using 2-cyclopropyl-6-nitroimidazo[1,2-a]pyridine and 4-(5-chloro-2-pyridyl)benzenecarboxylic acid, to provide 4-(5-chloro-2-pyridyl)-N-(2-cyclopropylimidazo[1,2-a]pyridine-6-yl)benzamide as white solid. Further treating the resulting compound in the manner similar to Example 36, the title compound was obtained as white solid.

reactant | 2-cyclopropyl-6-nitroimidazo[1,2-a]pyridine | C1(CC1)C=1N=C2N(C=C(C=C2)[N+](=O)[O-])C1 | C10H9N3O2
reactant | 4-(5-chloro-2-pyridyl)benzenecarboxylic acid | ClC=1C=CC(=NC1)C1=CC=C(C=C1)C(=O)O | C12H8ClNO2
product | 4-(5-chloro-2-pyridyl)-N-(2-cyclopropylimidazo[1,2-a]pyridine-6-yl)benzamide | ClC=1C=CC(=NC1)C1=CC=C(C(=O)NC=2C=CC=3N(C2)C=C(N3)C3CC3)C=C1 | C22H17ClN4O
